US05514691
(a) 3-Amino-4-bromo-5-tert-butylisoxazole
This compound was prepared from 3-amino-5-tert-butylisoxazole and N-bromosuccinimide as described in Example 1a in 91% yield, Rf 0.27 (3:1 hexanes/ethyl acetate).

reactant | 3-amino-5-tert-butylisoxazole | NC1=NOC(=C1)C(C)(C)C | C7H12N2O
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 3-Amino-4-bromo-5-tert-butylisoxazole | 91% yield | NC1=NOC(=C1Br)C(C)(C)C | C7H11BrN2O
